US04291175
4-(6-Carboxyhexyl)-2,2-dimethyl-5-oxo-1,3-dioxolane
A stirred mixture of 10.2 g. of 2-hydroxynonanedioic acid, 50 ml. of acetone, 75 ml. of petroleum ether (b.p. 30°-55° C.), and 0.25 ml. of sulfuric acid is heated at reflux for 7 hours with azeotropic removal of water. The stirred mixture is treated with 0.59 g. of sodium carbonate and diluted with petroleum ether. The solution is decanted from solid and concentrated to give 9.4 g. of oil; pmr (CDCl3) δ1.58 and 1.63 (gem-dimethyl group).

reactant | 2-hydroxynonanedioic acid | OC(C(=O)O)CCCCCCC(=O)O | C9H16O5
reactant | acetone | CC(=O)C | C3H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 4-(6-Carboxyhexyl)-2,2-dimethyl-5-oxo-1,3-dioxolane | C(=O)(O)CCCCCCC1OC(OC1=O)(C)C | C12H20O5
